US05204357
b) H-His(DNP)-1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide hydrochloride
230 mg of Boc-His(DNP)-1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide are stirred in 5 ml of saturated DME/HCl for 90 minutes and subsequently concentrated. 220 mg of the title compound are obtained as a resin.

reactant | Boc-His(DNP) 1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide | 230 mg | N([C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O)C(=O)OC(C)(C)C.C1(CCCCC1)C[C@@H]([C@H](CCCC1=NC=CC=C1)O)[NH-]
reactant | DME HCl | 5 ml | COCCOC.Cl
product | H-His(DNP) 1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide hydrochloride | 220 mg | N[C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O.Cl.C1(CCCCC1)C[C@@H]([C@H](CCCC1=NC=CC=C1)O)[NH-] | InChI=1S/C17H27N2O.C12H11N5O6.ClH/c18-16(13-14-7-2-1-3-8-14)17(20)11-6-10-15-9-4-5-12-19-15;13-9(12(18)19)3-7-5-15(6-14-7)10-2-1-8(16(20)21)4-11(10)17(22)23;/h4-5,9,12,14,16-18,20H,1-3,6-8,10-11,13H2;1-2,4-6,9H,3,13H2,(H,18,19);1H/q-1;;/t16-,17-;9-;/m00./s1
